*  Generated for: PrimeSim
*  Design library name: SCHMITT_TRIGGER2
*  Design cell name: implementation'
*  Design view name: schematic
.lib 'saed32nm.lib' TT

*Custom Compiler Version S-2021.09
*Thu Feb 24 18:34:42 2022

.global gnd!
********************************************************************************
* Library          : SCHMITT_TRIGGER2
* Cell             : Design
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt design gnd_1 vdd vin vn vout vp
xm8 vdd vin net34 net34 p105 w=0.6u l=0.03u nf=1 m=1
xm1 vdd net34 vout vout p105 w=0.6u l=0.03u nf=1 m=1
xm0 vdd vout net34 vp p105 w=0.3u l=0.03u nf=1 m=1
xm6 net34 vin gnd_1 gnd_1 n105 w=0.3u l=0.03u nf=1 m=1
xm4 vout net34 gnd_1 gnd_1 n105 w=0.3u l=0.03u nf=1 m=1
xm3 net34 vout gnd_1 vn n105 w=0.15u l=0.03u nf=1 m=1
.ends design

********************************************************************************
* Library          : SCHMITT_TRIGGER2
* Cell             : implementation'
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi8 gnd! net20 vin net25 vout net7 design
v6 net7 gnd! dc=.5
v5 gnd! net25 dc=.5
v2 net20 gnd! dc=1
v3 vin gnd! dc=0 sin ( .5 2 50 0 0 0 )








.tran '0' '200m' name=tran

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe tran v(vin) v(vout)

.temp 25



.option primesim_output=wdf


.option parhier = LOCAL






.end

