*  Generated for: PrimeSim
*  Design library name: SCHMITT_TTRIGGER1
*  Design cell name: 1stDESIGN_IMPLEMENTATION
*  Design view name: schematic
.lib 'saed32nm.lib' TT

*Custom Compiler Version S-2021.09
*Thu Feb 24 12:17:58 2022

.global gnd!
********************************************************************************
* Library          : SCHMITT_TTRIGGER1
* Cell             : 1stDESIGN
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt _1stdesign gnd_1 vdd vin vout
xm6 gnd_1 vout net28 net28 p105 w=0.78u l=30n nf=1 m=1
xm9 net28 vin vout vout p105 w=0.6u l=0.03u nf=1 m=1
xm0 vdd vin net28 net28 p105 w=0.6u l=30n nf=1 m=1
xm5 vdd vout net23 net23 n105 w=0.675u l=0.03u nf=1 m=1
xm4 net23 vin gnd_1 gnd_1 n105 w=0.3u l=0.03u nf=1 m=1
xm3 vout vin net23 net23 n105 w=0.3u l=0.03u nf=1 m=1
.ends _1stdesign

********************************************************************************
* Library          : SCHMITT_TTRIGGER1
* Cell             : 1stDESIGN_IMPLEMENTATION
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 gnd! net8 vin vout _1stdesign
v8 vin gnd! dc=0 sin ( 0.5 1 50 0 0 0 )
v6 net8 gnd! dc=1








.tran '1u' '200m' name=tran

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe tran v(vin) v(vout)

.temp 25



.option primesim_output=wdf


.option parhier = LOCAL






.end

